US04616086
Ethyl 4-(piperazin-1-yl)-benzoate
A mixture of 39.5 g. (0.24 mole) ethyl 4-aminobenzoate (free base), 140 ml. n-butanol and 47.1 g. (0.265 mole) bis-(2-chloroethyl)-amine hydrochloride is heated at reflux temperature for 36 hours, then 16.8 g. (0.12 mole) powdered anhydrous potassium carbonate are added thereto followed by further heating for 80 hours. The hot reaction mixture is then suction filtered, the filter cake is washed with some hot butanol and the combined filtrates are cooled. After standing overnight, the solid product obtained is filtered off with suction, washed twice with 50 ml. amounts of diethyl ether and dried. Yield: 33.4 g. (64% of theory) of yellow crystals which are recrystallised from ethanol/diethyl ether (2:1 v/v) to give 28.45 g. (55% of theory) of the desired product in the form of an almost colourless hydrochloride; m.p. 176°-178° C. The product is hydroscopic.

reactant | ethyl 4-aminobenzoate | 0.24 mole | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | bis-(2-chloroethyl)-amine hydrochloride | 0.265 mole | Cl.ClCCNCCCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | Ethyl 4-(piperazin-1-yl)-benzoate | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
